US09403849B2
a) 9,10-Bis(diphenylamino)anthracene
Preparation analogous to Example 20a. Instead of 76.0 g (211 mmol) of dibromopyrene (isomer mixture) and 94.7 g (480 mmol) of bis(4-methylphenyl)amine, 70.9 g (211 mmol) of 9,10-dibromoanthracene and 81.2 g (480 mmol) of diphenylamine are used. Yield: 86.2 g (168 mmol), 79.7% of theory; purity 99% according to 1H-NMR.

reactant | dibromopyrene | 211 mmol, 76.0 g | BrC=1C=C2C=CC3=CC(=CC4=CC=C(C1)C2=C43)Br | C16H8Br2
reactant | bis(4-methylphenyl)amine | 480 mmol, 94.7 g | CC1=CC=C(C=C1)NC1=CC=C(C=C1)C | C14H15N
reactant | 9,10-dibromoanthracene | 211 mmol, 70.9 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C14H8Br2
reactant | diphenylamine | 480 mmol, 81.2 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
product | 9,10-Bis(diphenylamino)anthracene | C1(=CC=CC=C1)N(C=1C2=CC=CC=C2C(=C2C=CC=CC12)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C38H28N2
